US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 2-methoxy-phenol to give [1-(2-methoxy-phenoxy)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 333(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 2-methoxy-phenol | COC1=C(C=CC=C1)O | C7H8O2
product | [1-(2-methoxy-phenoxy)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | COC1=C(OC2=NC(=CC3=CC=CC=C23)NC2=NNC=C2)C=CC=C1 | C19H16N4O2
